US04145430
(5R)-7-oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0]hept-2-ene
Clavulanic acid (1.5 mmole) in dry tetrahydrofuran (5 ml) under a dry nitrogen atmosphere was treated with triphenylphosphine (1.5 mmole) and then, dropwise, diethylazoxicarboxylate (1.5 mmole) in dry tetrahydrofuran (2 ml). After addition was complete (2 minutes), the mixture was stirred for 30 minutes at room temperature and was then ice-cooled and diluted with a mixture of ether and n-pentane (1:2, 20 ml). The mixture was filtered and the filtrate was diluted with dry benzene (10 ml) and then concentrated to about 5 ml under reduced pressure to yield a solution of the title compound (1 mmole).

reactant | Clavulanic acid | 1.5 mmole | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
reactant | triphenylphosphine | 1.5 mmole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazoxicarboxylate | 1.5 mmole | C(C)OC(=O)[N+]([O-])=NC(=O)OCC | C6H10N2O5
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | n-pentane | 20 ml | CCCCC | C5H12
product | (5R)-7-oxo-3-vinyl-4-oxa-1-azabicyclo[3.2.0]hept-2-ene | 1 mmole | O=C1C[C@H]2OC(=CN12)C=C | C7H7NO2
